US07091347B2
4—Chloro-2-methanesulfonyl-thieno[2,3-d]pyrimidine
To a solution of 4-chloro-2-methylsulfanyl-thieno[2,3-d]pyrimidine (10 g, 46.15 mmol) in tetrahydrofuran (350 mL) at 0° C. was added a solution of OXONE (59.6 g, 2.1 eq) in water (300 mL) dropwise with stirring. The resulting mixture was gradually warmed from 0° C. to room temperature overnight. The reaction mixture was diluted with ethyl acetate (1000 mL) and water (300 mL), and the layers were separated. The aqueous layer was extracted with ethyl acetate (1×300 mL). Organic layers were combined, washed with brine (2×300 mL), dried over magnesium sulfate, filtered and concentrated to give 10.7 g of the title compound as a tan powder (M+H)+=249.

reactant | 4-chloro-2-methylsulfanyl-thieno[2,3-d]pyrimidine | 46.15 mmol, 10 g | ClC=1C2=C(N=C(N1)SC)SC=C2 | C7H5ClN2S2
reactant | OXONE | 59.6 g, 2.1 eq | OOS(=O)[O-].[K+]
reactant | tetrahydrofuran | 350 mL | O1CCCC1 | C4H8O
solvent | water | 300 mL | O | H2O
solvent | ethyl acetate | 1000 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 300 mL | O | H2O
product | 4—Chloro-2-methanesulfonyl-thieno[2,3-d]pyrimidine | 10.7 g | ClC=1C2=C(N=C(N1)S(=O)(=O)C)SC=C2 | C7H5ClN2O2S2
